US04479949
3-Acetyl-2-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]benzothiazoline hydrochloride (Compound No. 86)
1.31 g of 3-acetyl-2-[2-(2,3-epoxypropoxy)phenyl]benzothiazoline and 4.21 ml of t-butylamine are dissolved in 10 ml of ethanol and the solution is refluxed for 1 hour. After cooling, 2 ml of 2N HCl/ethyl acetate is added to the reaction mixture and the solution is concentrated in vacuo. To the residue ether is added to produce crystals. Crystals are collected by filtration to give 1.3 g (81%) of the titled compound.

reactant | 3-acetyl-2-[2-(2,3-epoxypropoxy)phenyl]benzothiazoline | 1.31 g | C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCC2CO2 | C18H17NO3S
reactant | t-butylamine | 4.21 ml | C(C)(C)(C)N | C4H11N
reactant | HCl ethyl acetate | 2N, 2 ml | Cl.C(C)(=O)OCC
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Acetyl-2-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]benzothiazoline hydrochloride | 1.3 g, 81% | Cl.C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCC(CNC(C)(C)C)O | InChI=1S/C22H28N2O3S.ClH/c1-15(25)24-18-10-6-8-12-20(18)28-21(24)17-9-5-7-11-19(17)27-14-16(26)13-23-22(2,3)4;/h5-12,16,21,23,26H,13-14H2,1-4H3;1H
